US07227028B2
O-(1-Chloroethyl) S-Phenvl Thiocarbonate (4)
A solution of benzenethiol (50 g, 450 mmol) and 1-chloroethyl chloroformate (65 g, 450 mmol) in CH2Cl2 (300 mL) was cooled to 0-4° C. in an ice-water bath. To the mixture was added a solution of triethylamine (450 mmol) in dichloromethane (200 mL) dropwise over 30 min. The reaction was removed from the ice bath and stirred at ambient temperature for 12 h. The reaction was washed with water (3×500 mL), the organic phase was separated, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford the product as a pale yellow liquid (96 g, 98.5%). 1H NMR (CDCl3, 400 MHz): δ 1.82 (d, 3H), 6.6 (q, 1H), 7.2-7.4 (m, 5H).

reactant | benzenethiol | 450 mmol, 50 g | C1(=CC=CC=C1)S | C6H6S
reactant | 1-chloroethyl chloroformate | 450 mmol, 65 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | triethylamine | 450 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | O-(1-Chloroethyl) S-Phenvl Thiocarbonate | 96 g, 98.5% | C(OC(C)Cl)(SC1=CC=CC=C1)=O | C9H9ClO2S
